US08802695B2
(S)—N-(3-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl)-4-(1,2-dihydroxypropan-2-yl)benzamide
(S)-4-(1,2-dihydroxypropan-2-yl)-N-(1-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl)benzamide (650 mg, 2.0 mmol) was dissolved in DMF (25 ml) and NCS (270 mg, 2.0 mmol) was added to the mixture, which was stirred at 50° C. for 16 hours. The mixture was then poured into 50 ml ice water and was extracted into ethyl acetate (3×100 ml). Combined organic layers were dried over sodium sulfate and concentrated in vacuo. The crude product was purified by preparatory HPLC (TFA mode, 15-50% ACN in water). Fractions containing the desired mono chlorinated product were combined, concentrated, washed with saturated NaHCO3 and brine, and then extracted into ethyl acetate (2×100 ml). Combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo to obtain the title compound (S)—N-(3-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl)-4-(1,2-dihydroxypropan-2-yl)benzamide (120 mg, 0.32 mmol, 16%) as a brown solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.43 (s, 2H) 2.43-2.64 (m, 1H) 3.46 (dd, J=5.56, 2.53 Hz, 2H) 3.69-3.84 (m, 2H) 4.76 (t, J=5.81 Hz, 1H) 5.04 (s, 1H) 7.40-7.67 (m, 2H) 8.02 (d, J=8.59 Hz, 1H) 8.21-8.40 (m, 1H) 8.59 (s, 1H) 10.65 (s, 1H); ESI-MS: m/z 360 (M+H)+; m.p. 210-212° C.

reactant | (S)-4-(1,2-dihydroxypropan-2-yl)-N-(1-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl)benzamide | 2.0 mmol, 650 mg | OC[C@@](C)(O)C1=CC=C(C(=O)NC2=CC3=C(C=N2)C=CN3C)C=C1 | C18H19N3O3
reactant | NCS | 2.0 mmol, 270 mg | C1CC(=O)N(C1=O)Cl | C4H4ClNO2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | (S)—N-(3-chloro-1-methyl-1H-pyrrolo[3,2-c]pyridin-6-yl)-4-(1,2-dihydroxypropan-2-yl)benzamide | 0.32 mmol, 120 mg, 16% | ClC1=CN(C2=C1C=NC(=C2)NC(C2=CC=C(C=C2)[C@](CO)(C)O)=O)C | C18H18ClN3O3
